US06093732
8-Chloro-N-[(4-chlorophenyl)methyl]-4-hydroxy-3-quinolinecarboxamide
Ethyl 8-chloro-4-hydroxyquinoline-3-carboxylate (1.21 g) and 4-chlorobenzyl-amine (1.8 mL) are heated at 180° C. for 2 hours. The reaction is cooled to room temperature and the resulting solid filtered, washed thoroughly with diethyl ether and methylene chloride, and dried to give the desired product (1.44 g).

reactant | Ethyl 8-chloro-4-hydroxyquinoline-3-carboxylate | 1.21 g | ClC=1C=CC=C2C(=C(C=NC12)C(=O)OCC)O | C12H10ClNO3
reactant | 4-chlorobenzyl-amine | 1.8 mL | ClC1=CC=C(CN)C=C1 | C7H8ClN
product | 8-Chloro-N-[(4-chlorophenyl)methyl]-4-hydroxy-3-quinolinecarboxamide | 1.44 g | ClC=1C=CC=C2C(=C(C=NC12)C(=O)NCC1=CC=C(C=C1)Cl)O | C17H12Cl2N2O2
